US06099593
50 g of 4-nitro-2H-pyrazole-3-ylamine hydrochloride (prepared according to H. Dorn and H. Dilcher, Liebigs Ann. Chem., 707, 141, 1967) 35 g of β-ethoxyacrylonitrile and 250 cc of acetic acid were introduced into a 500 cc three-necked round-bottomed flask fitted with a mechanical stirrer and equipped with a condenser and a thermometer. The medium was refluxed for 4h30'. The mixture was cooled to about 40° C. and the precipitate was then filtered off. This precipitate was taken up in 300 cc of ethyl ether with stirring. The precipitate was filtered off again, washed on the filter with 100 cc of ethyl ether and the product was dried under vacuum over phosphorus pentoxide. 61.3 g of 3-nitropyrazolo[1,5-a]pyrimidin-7-ylamine hydrochloride were obtained in the form of a yellow powder. (Yield=93%).

reactant | 4-nitro-2H-pyrazole-3-ylamine hydrochloride | 50 g | Cl.[N+](=O)([O-])C1=C(NN=C1)N
reactant | β-ethoxyacrylonitrile | C(C)OC=CC#N | C5H7NO
solvent | acetic acid | 250 cc | C(C)(=O)O | C2H4O2
product | 3-nitropyrazolo[1,5-a]pyrimidin-7-ylamine hydrochloride | 61.3 g, Yield=93% | Cl.[N+](=O)([O-])C=1C=NN2C1N=CC=C2N | InChI=1S/C6H5N5O2.ClH/c7-5-1-2-8-6-4(11(12)13)3-9-10(5)6;/h1-3H,7H2;1H
